US07795437B2
Quinoline-4-carboxylic acid trans(4-{2-[4-(3,4-dichloro-phenoxy)-piperidin-1-yl]-ethyl}-cyclohexyl)-amide
The title compound was prepared analogously to example 71 using quinoline-4-carboxylic acid trans-[4-(2-oxo-ethyl)-cyclohexyl]-amide and 4-(3,4-dichloro-phenoxy)-piperidine as starting materials.

reactant | quinoline-4-carboxylic acid trans-[4-(2-oxo-ethyl)-cyclohexyl]-amide | O=CC[C@@H]1CC[C@H](CC1)NC(=O)C1=CC=NC2=CC=CC=C12 | C18H20N2O2
reactant | 4-(3,4-dichloro-phenoxy)-piperidine | ClC=1C=C(OC2CCNCC2)C=CC1Cl | C11H13Cl2NO
product | Quinoline-4-carboxylic acid trans(4-{2-[4-(3,4-dichloro-phenoxy)-piperidin-1-yl]-ethyl}-cyclohexyl)-amide | ClC=1C=C(OC2CCN(CC2)CC[C@@H]2CC[C@H](CC2)NC(=O)C2=CC=NC3=CC=CC=C23)C=CC1Cl | C29H33Cl2N3O2
